US06100257
Then, 7.5 g of 4-chloro-2-fluoro-5-isopropoxybenzaldehyde was dissolved in 70 ml of 1,4-dioxane and 5 ml of methanol, to which 0.92 g of sodium borohydride was added at 5° C., and the mixture was stirred for 40 minutes. After completion of the reaction, a small amount of diluted hydrochloric acid was added, and the reaction mixture was poured into water and extracted with ethyl acetate. The organic layer was washed with saturated sodium chloride solution, dried, and concentrated. The residue was subjected to silica gel column chromatography, which afforded 6.7 g of 4-chloro-2-fluoro-5-isopropoxybenzyl alcohol.

reactant | 4-chloro-2-fluoro-5-isopropoxybenzaldehyde | 7.5 g | ClC1=CC(=C(C=O)C=C1OC(C)C)F | C10H10ClFO2
reactant | sodium borohydride | 0.92 g | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | water | O | H2O
solvent | 1,4-dioxane | 70 ml | O1CCOCC1 | C4H8O2
solvent | methanol | 5 ml | CO | CH4O
product | 4-chloro-2-fluoro-5-isopropoxybenzyl alcohol | 6.7 g | ClC1=CC(=C(CO)C=C1OC(C)C)F | C10H12ClFO2
